US05559224
A 0.86 g portion of (2S,4S)-4-benzoylthio-1-(p-nitrobenzyloxycarbonyl)proline was suspended in 10 ml of dichloromethane, and 0.51 g of oxalyl chloride and one drop of dimethylformamide were added to the suspension, followed by 1 hour of reaction at room temperature. With cooling on an ice bath, to the solution were added 0.74 g of 1-(4-(p-nitrobenzyloxycarbonyl)aminobutyryl)piperazine and 0.41 g of triethylamine, followed by 3 hours of reaction at room temperature. The resulting reaction mixture was mixed with chloroform, washed with sodium bicarbonate aqueous solution, citric acid aqueous solution and sodium chloride aqueous solution in that order and then dried over sodium sulfate, followed by evaporation of the solvent under a reduced pressure. Thereafter, a residue was subjected to a silica gel column chromatography to yield 1.64 g of foamy (2S,4S)-4-benzoylthio -1-(p-nitrobenzyloxycarbonyl)-2-((1-(4-(p-nitrobenzyloxycarbonyl) aminobutyryl)piperazine-4-yl)carbonyl)pyrrolidine.

reactant | (2S,4S)-4-benzoylthio-1-(p-nitrobenzyloxycarbonyl)proline | C(C1=CC=CC=C1)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C20H18N2O7S
reactant | oxalyl chloride | 0.51 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-(p-nitrobenzyloxycarbonyl)aminobutyryl)piperazine | 0.74 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)N2CCNCC2)C=C1 | C16H22N4O5
reactant | triethylamine | 0.41 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2S,4S)-4-benzoylthio -1-(p-nitrobenzyloxycarbonyl)-2-((1-(4-(p-nitrobenzyloxycarbonyl) aminobutyryl)piperazine-4-yl)carbonyl)pyrrolidine | 1.64 g | C(C1=CC=CC=C1)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C(CCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C36H38N6O11S
